US07696213B2
6-(6-Methoxypyridin-3-yl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one (Compound 153)
To a solution of 6-(6-methoxypyridin-3-yl)-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one (147 mg, 0.445 mmol) in 1,4-dioxane (2.5 mL) was added methylamine (1.1 mL, 2.0 M in THF, 2.2 mmol). The mixture was sealed and heated at 110° C. microwave for 10 min. The mixture was concentrated under reduced pressure to give a solid. The crude solid was washed with water and EtOAc, recrystallized from DMSO/EtOAc to give the title compound (80 mg, 61%).

reactant | 6-(6-methoxypyridin-3-yl)-4-methyl-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.445 mmol, 147 mg | COC1=CC=C(C=N1)C1=CC2=C(N=C(N=C2C)S(=O)C)NC1=O | C15H14N4O3S
reactant | methylamine | 2.2 mmol, 2.0 M, 1.1 mL | CN | CH5N
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 6-(6-Methoxypyridin-3-yl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one | 80 mg, 61% | COC1=CC=C(C=N1)C1=CC2=C(N=C(N=C2C)NC)NC1=O | C15H15N5O2
